Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute on chronic functional decline and failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of 
dementia, progressive decline in functional status since 
___ of this year,  possible infectious encephalitis, 
seizures, multiple UTIs, recent admission for increased 
agitation found to have subdural hematoma, UTI, and seizures, 
now presenting with acute on chronic functional decline and 
failure to thrive.

She was recently discharged from ___ to facility, but was sent 
back because of agitation and refusing all PO medications and 
food for the past 3 days. Additionally, she has been suffocating 
herself and throwing feces. She was initially sent to 
___, where a CT head showed stable subdural hematoma and 
no other acute findings. She received Haldol for CT scan, and 
was loaded
with 1gm of keppra as well. She was transferred to ___ 
given that she was recently discharged from here after extensive 
work-up of behavioral changes that did not improve with 
prescribed management.

With regard to her prior recent hospitalization (___) 
for altered mental status, she was found to have left frontal 
subdural hematoma with acute on chronic appearance, UTI, and 
seizure on EEG. She was discharged on keppra and vimpat, and 
plan for neurology follow up.

In the ___, she was afebrile, HR ___, BP 
130s-1502/70s-90s, satting 100% on RA. Her exam was at baseline 
aside from her not smiling as she usually does and that her son 
felt she was not regarding him. Labs were notable for normal 
CBC, elevated LFTs similar to prior (ALT 59 from 71, AST 44 from 
40,
Alk phos 126 from 112), normal electrolytes, and negative UA. 
Neurology was consulted and felt that mental status change was 
either due to underlying infection vs seizure in the setting of 
non-adherence ___ failure to thrive. They recommended cvEEG to 
rule out seiure, keppra 1500mg BID and vimpat 100mg BID, and 
plan for admission to medicine for failure to thrive and to 
complete
toxic metabolic workup. The patient did not receive any 
medications in the ED.

Upon arrival to the floor, history was unable to be obtained due 
to patient mental status.

 
Past Medical History:
- dementia, likely frontotemporal
- Hypertension
- Seizures - ___
- Left ___ - ___
- Chronic urinary incontinence
- Encephalitis: autoimmune vs. HSV - ___

 
Social History:
___
Family History:
Unable to obtain due to mental status and delirium.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: T-98.3 BP-135/86, HR-68, RR-17, 98% Ra 
GENERAL: Alert and tracks movements with eyes, mumbles. Hunched
over in bed.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Non distended, non-tender to deep palpation in all four
quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: Alert and tracks movements with eyes, mumbles.
Hunched over in bed. Does not respond to commands. PEERL. Unable
to asses remaining CNs, strength, sensation, or coordination.
(similar to prior documented exam)

DISCHARGE PHYSICAL EXAM
=========================
GENERAL: Lying in bed, comfortable, NO restraints. 
Intermittently walking the floor rapidly.
LUNGS: No increased work of breathing. 
SKIN: No rashes on her face. 
HEENT: Anicteric sclerae, tacky mucous membranes

 
Pertinent Results:
NOTABLE LABS:
========================
___ 02:40PM BLOOD WBC-5.3 RBC-3.88* Hgb-11.4 Hct-35.5 
MCV-92 MCH-29.4 MCHC-32.1 RDW-16.0* RDWSD-53.1* Plt ___
___ 02:40PM BLOOD Glucose-133* UreaN-20 Creat-1.1 Na-147 
K-4.2 Cl-107 HCO3-28 AnGap-12
___ 11:05PM BLOOD ALT-59* AST-44* AlkPhos-126* TotBili-0.6
___ 06:33AM BLOOD PTH-37
___ 06:30AM BLOOD 25VitD-28*
___ 06:30AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 11:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:30AM BLOOD HCV Ab-NEG
___ 11:23PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 11:23PM URINE RBC-6* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:10PM BLOOD WBC-6.3 RBC-4.49 Hgb-12.8 Hct-42.4 MCV-94 
MCH-28.5 MCHC-30.2* RDW-16.4* RDWSD-56.3* Plt ___
___ 11:12AM BLOOD Glucose-117* UreaN-15 Creat-0.9 Na-148* 
K-4.3 Cl-109* HCO3-26 AnGap-13
___ 06:27AM BLOOD Glucose-147* UreaN-15 Creat-0.9 Na-156* 
K-4.0 Cl-114* HCO3-29 AnGap-11
___ 03:10PM BLOOD ALT-57* AST-30 AlkPhos-118* TotBili-0.4

MICRO:
================
NO POSITIVE MICRO

STUDIES:
===============
NO RELEVANT STUDIES
 
Brief Hospital Course:
*see d/c worksheet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. amLODIPine 5 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Multivitamins W/minerals Chewable 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. LACOSamide 100 mg PO BID 
7. LevETIRAcetam 1500 mg PO BID 
8. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
9. Fleet Enema (sodium phosphates) ___ gram/118 mL rectal 
ONCE:PRN 
10. Milk of Magnesia 30 mL PO Q8H:PRN Constipation - Second Line 

11. TraZODone 50 mg PO Q8H:PRN agitation 

 
Discharge Medications:
1.  Divalproex Sod. Sprinkles 250 mg PO BID  
2.  Glycerin Supps ___AILY:PRN constipation   
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
4.  QUEtiapine Fumarate 75 mg PO TID  
5.  Senna 17.2 mg PO BID  
6.  Sertraline 50 mg PO DAILY  
7.  Bisacodyl 10 mg PO/PR DAILY  
8.  Bisacodyl ___AILY:PRN Constipation - Second Line  
9.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
10.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
11.  LACOSamide 100 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Frontotemporal Dementia, complicated by
 Agitation
 Orthostatic hypotension w/ syncope
 Hypernatremia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
- You were not adjusting well to your nursing home.

WHAT WAS DONE WHILE I WAS HERE?
- You were given medicines to help you to stay calm.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- You should enjoy your time with your family and settle into 
your nursing home.

Be well!

Your ___ Care Team
 
Followup Instructions:
___